Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing / shellfish derived
 
Attending: ___
 
___ Complaint:
Chest pain with exertion
 
Major Surgical or Invasive Procedure:
Cardiac catherization on ___

 
History of Present Illness:
Dr ___ is a ___ year old physician with ___ history of CAD 
(dRCA 30%, 40% tubular LAD by cath ___ who presents to ___ 
with crescendo angina.

Four weeks PTA, Mr ___ experienced crushing SSCP while 
showering. His pain resolved without intervention, but recurred 
one week PTA when he was carrying two 15 lb pails of salt to his 
car. The pain at that time was right sided and radiated into his 
right jaw. He had another episode late the same day while 
climbing stairs. The majority of the pain resolved with rest, 
but occurred intermittently up until current admission. He 
reports that his chest pain flared up this week with some 
exertional activities (treadmill, walking up stairs). For this, 
he took 325mg ___ AM. He was planning to monitor symptoms, and 
wait for an outpatient stress echo to be done tomorrow, but 
after discussion with his own PCP he was instructed to come in.

Patient reports that pain does not seem positional in nature 
(patient does yoga poses). He denies trying nitroglycerin for 
his current CP events as it previously gave him headache ~ ___ 
yrs ago. 

COLLATERAL: Spoke with PCP ___ (PCP) ___ - 
per PCP patient had significant typical chest pain this week but 
has been stoic about avoiding ED. Only today after 90 minute 
conversation with PCP did he agree to come in. Updated her to 
let her know likely cardiology admission, with stress echo vs 
cath in am to be decided by cardiology. Will give intern on team 
her number. 

ED COURSE 
- In the ED, initial vitals were ___ 76 143/75 18 99% RA
- Given ASA 324mg, labs mostly wnl, initial trop negative.
- EKG w/o ischemic changes 
- Vitals on transfer: 1 97.9 70 129/65 18 98% RA 

On the floor, patient is nearly chest pain free (0.5/10) with - 
sternal discomfort. Otherwise well without focal complaints. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: HLD, intolerant to statins. Treated 
with diet; very positive family history: father and uncle with 
MI's. 
2. CARDIAC HISTORY:  
- CAD: (dRCA 30%, 40% tubular LAD by cath ___
- PUMP FUNCTION: Unknown 
- PACING/ICD: None 
3. OTHER PAST MEDICAL HISTORY:
- Cluster Migraines  
 
Social History:
___
Family History:
No family hx arrhythmia, cardiomyopathies, or sudden cardiac 
death; 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: T= 98.0 BP= 139/77 HR= 84 RR= 18 O2 sat= 100RA
GENERAL: Well appearing male in NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP of 0 cm at 90 degrees.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric

DISCHARGE PHYSICAL EXAMINATION:  
===============================
VS: VSS
GENERAL: Well appearing male in NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthelasma.
NECK: Supple with JVP of 0 cm at 90 degrees.
CARDIAC: PMI located in ___ intercostal space, midclavicular 
line. RR, normal S1, S2. No murmurs/rubs/gallops. No thrills, 
lifts.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. No crackles, wheezes or 
rhonchi.
ABDOMEN: Soft, NTND. No HSM or tenderness.
EXTREMITIES: No c/c/e. No femoral bruits.
SKIN: No stasis dermatitis, ulcers, scars, or xanthomas.
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
Admission/Discharge labs:
___ 02:58PM BLOOD WBC-4.9 RBC-4.79 Hgb-14.3 Hct-42.7 MCV-89 
MCH-29.9 MCHC-33.5 RDW-13.1 RDWSD-42.8 Plt ___
___ 06:00AM BLOOD WBC-6.2 RBC-4.66 Hgb-13.9 Hct-41.0 MCV-88 
MCH-29.8 MCHC-33.9 RDW-12.8 RDWSD-41.0 Plt ___
___ 02:58PM BLOOD Glucose-98 UreaN-18 Creat-1.0 Na-140 
K-4.2 Cl-103 HCO3-25 AnGap-16
___ 06:00AM BLOOD Glucose-143* UreaN-20 Creat-1.0 Na-136 
K-4.5 Cl-100 HCO3-25 AnGap-16

Troponins
___ 02:58PM BLOOD cTropnT-<0.01
___ 08:54PM BLOOD cTropnT-<0.01

Studies:
--------
___ c. cath:
Dominance: Right
Left main coronary artery: Minor irregularities
Left anterior descending artery: Minor lumen irregularities in 
tne proximal, mid, and distal LAD. The was
a 50% stenosis in the origin of the diagonal branch. There there 
three diagonal branches without severe
disease. There was a long intramyocardial bridge with no 
significant stenosing systolic compression and no diastolic 
compression.
The distal LAD was without disease.
Left circumflex artery: The left circumflex was a large vessel 
and terminated in a large OMB without
disease.
Right coronary artery: There were minor irregularities in the 
proximal, mid, and distal RCA. There was a
50% stenosis in the origin of the posterior descending branch. 
The posterolateral branches had minor
lumen irregularities.
Impressions:
1. Insignificant coronary artery disease
2. Intramyocardial bridge with systolic compression
Recommendations
1. Medical therapy -- consider beta blocker and low dose statin 
- ezetimide

 
Brief Hospital Course:
Dr. ___ is a ___ year old male with HLD treated with diet 
control who presented on ___ with recent history of chest 
pain on exertion. 

# Coranary artery disease/chest pain: Over the weeks prior to 
presentation Dr. ___ multiple episodes of chest pain with 
exertion, most notably while carrying 30lbs 1 week PTA. He was 
admitted for CAD r/o. He underwent a cardiac cath which showed 
minor lumen irregularities in tne proximal, mid, and distal LAD, 
and a 50% stenosis in the origin of the diagonal branch, a long 
intramyocardial bridge with systolic compression and no 
diastolic compression. The left circumflex was disease free. The 
right coronary artery only had minor disease with 50% stenosis 
in the origin of the posterior descending branch. He was started 
on a daily aspirin regimen and metoprolol 25 mg ER with a view 
to mitigating the systolic compression. He was not started on a 
statin because of history of intolerance to multiple agents in 
the past. Patient will follow up with his PCP and cardiologist 
for follow up and titration of medications. 

Chronic issues:
# Cluster migraine headaches: Continued on home verapimil and 
lithium

Transitional issues:
- Please uptitrate metoprolol as tolerated.
- Patient not on lipid lowering agent. Intolerant to statins in 
the past. low dose non qd lipid lowering agent tried in the past 
without success. 
- Patient started on aspirin 81mg daily

# CODE: Full (Confirmed on admission) 
# CONTACT: Wife and HCP: ___
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Verapamil 120 mg PO Q24H 
2. Lithium Carbonate 150 mg PO QAM 
3. Cyanocobalamin Dose is Unknown  PO DAILY 
4. Aspirin 325 mg PO DAILY 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0
2. Verapamil SR 120 mg PO Q24H 
3. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0
4. Cyanocobalamin Dose is Unknown  PO DAILY 
5. Lithium Carbonate 150 mg PO QAM 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
Coronary artery disease, chest pain

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Dr. ___,

___ were admitted to the hospital for chest pain on exertion. 
___ underwent a left heart catheterization. It showed minor 
lumen irregularities in tne proximal, mid, and distal LAD, and
a 50% stenosis in the origin of the diagonal branch. It also 
showed  a long intramyocardial bridge with systolic compression 
and no diastolic compression. Your left circumflex was disease 
free. Your right coronary artery only had minor disease with 50% 
stenosis in the origin of the posterior descending branch. 

___ were started on metoprolol and aspirin as an inpatient. The 
metoprolol will be titrated up as an outpatient. ___ have been 
intolerant to statins in the past and so one was not started as 
an inpatient.

The details of your follow up appointments are given below.

It was a pleasure taking care of ___.
Sincerely,
Your ___ Cardiology Team
 
Followup Instructions:
___